US07241773B2
3-{4-[4-(trifluoromethyl)phenoxy]phenoxy}quinuclidine
3-Hydroxy quinuclidine (Aldrich, 254 mg, 2 mmol) was treated with 4-(4-trifluoromethyl-phenoxy)-phenol (Aldrich, 255 mg, 1 mmol) according to the procedure of Example 1A. The title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:1, Rf. 0.50) as oil (180 mg, yield, 49%). H NMR (MeOH-d4, 300 MHz) δ 1.50–1.58 (m, 1H), 1.64–1.85 (m, 2H), 2.00–2.15 (m, 1H), 2.20–2.30 (m, 1H), 2.76–3.10 (m, 5H), 3.38–3.50 (m, 1H), 4.60 (m, 1H), 6.96–7.04 (m, 6H), 7.60 (d, J=8.5 Hz, 2H) ppm. MS (DCl/NH3) m/z 364 (M+H)+.

reactant | 3-Hydroxy quinuclidine | 2 mmol, 254 mg | OC1CN2CCC1CC2 | C7H13NO
reactant | 4-(4-trifluoromethyl-phenoxy)-phenol | 1 mmol, 255 mg | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
product | 3-{4-[4-(trifluoromethyl)phenoxy]phenoxy}quinuclidine | FC(C1=CC=C(OC2=CC=C(OC3CN4CCC3CC4)C=C2)C=C1)(F)F | C20H20F3NO2
